US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-{3-[(cyclohexylamino)methyl]-1,2,4-oxadiazol-5-yl}hexanoate
Method as for preparation 5 using tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate (preparation 177) (500 mg, 0.99 mmol) and cyclohexylamine (198 mg, 1.98 mmol) as starting materials to afford the title compound as a colourless oil (250 mg).

reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate | 0.99 mmol, 500 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COS(=O)(=O)C1=CC=C(C=C1)C | C26H38N2O6S
reactant | cyclohexylamine | 1.98 mmol, 198 mg | C1(CCCCC1)N | C6H13N
product | tert-butyl (3R)-6-cyclohexyl-3-{3-[(cyclohexylamino)methyl]-1,2,4-oxadiazol-5-yl}hexanoate | 250 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNC1CCCCC1 | C25H43N3O3
